2132-08-16 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2132-8-16**] 12:31 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-8-16**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-16**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 84 (69 - 102) bpm
   BP: 131/43(62) {125/42(62) - 141/90(126)} mmHg
   RR: 22 (15 - 23) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             100 mL
   PO:
             TF:
   IVF:
   100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,450 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,350 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 441 (441 - 441) mL
   PS : 8 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.31/80.[**Numeric Identifier 248**]/61//9
   Ve: 8.2 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Gen: Alert but Confused Farsi speaking only (Daughter at bedside)
   HEENT: NC/AT, PERRL
   Chest: Scattered wheezes, rales at right base
   CVS: RRR nl s1/s2 unable to auscultate
   ABD: Soft/NT/ND/NABS
   Ext: Trace bilat LE edema; without cyanosis
   Labs / Radiology
        [image002.jpg]
                             [**2132-8-16**]  12:46 AM
   TCO2
   42
   Other labs: Lactic Acid:0.9 mmol/L
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   This is a  73 y/o with COPD, OSA, obesity hypoventilation syndrome, CHF
   presents with SOB and somulence x 3 days
   .
   # Hypercarbic resp failure: CO2 of 105 on admit ABG, improved to
   baseline of 80s with BIPAP. Was using home oxygen and bipap. Unclear
   [**Name2 (NI) 9653**] of COPD exacerbation. NO history of fever, cough. NO WBC to
   suggest active infection. Perhaps CHF and volume overload slightly
   worse which is exacerbating situation. ABG with resp acidosis improving
   with BIpap
   - solumedrol 80 IV TID
   - nebs
   - BIPAP
   - pt [**Name (NI) 329**]
   - IV levo given cannot r/o consolidation on CXR and recent PNA
   - advair
   - spiriva
   - consider CT chest if cannot r/o consolidation on CXR or if spikes
   fever
   - f/u blood and urine cult.
   .
   # CHF: CXR appears to have volume overload. Home dose of lasix 80mg PO
   daily. Autodiuresing with 700 CC UOP within 2 hrs on floor. BNP 2600.
   - hold additional lasix for now as autodiurisis
   - continue daily metoprolol
   .
   #  DM2: ISS, hold glyburide
   .
   #  HL: simvastatin
   .
   #  Delirium: [**3-3**] hypercarpia exacerbated by steroids
   - hold ultram, rozerem, diphenhydramine
   - continue abilify, risperdal, artane
   - haldol prn
   - restraints
   .
   # Anemia: HCT of 26, down from 30-32
   - trend HCT
   .
   # FEN: No IVF, replete electrolytes, cardiac diet.
   ICU Care
   Nutrition: Cardiac Diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-16**] 12:00 AM
   18 Gauge - [**2132-8-16**] 12:00 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:  n/a
   Comments: restraints for Pt safety
   Communication: with Pt and Daughter [**Name (NI) 5657**] [**Known lastname **] Comments:
   Code status: DNR/DNI
   Disposition:  MICU

2132-08-19 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2132-8-19**] 06:26 AM
   73 y/o woman with COPD, OSA, obesity hypoventilation syndrome, CHF
   presents with SOB and somulence x3 days, admitted initially to the MICU
   for hypercarbic respiratory failure, transferred to the floor on 4L O2
   now transferred back to MICU with agitation, persistent hypercarbia.
   -Steroids changed from Solumedrol 80mg TID to Prednisone 60mg qd
   -CO2 of 105 on admit ABG, improved to 80s with BiPAP.
   -s/s eval ordered
   -ABG stable/slightly improved after home BiPAP settings
   -PE protocol CTA prelim negative, CXR appears improved from edema
   standpoint.
   -has ICD in place (active as of 07); d/w family and IP if still active
   and if should be given DNR status
   -decreased UOP o/n resolved with foley repositioning, so may need to be
   changed
   -large insulin requirements
   -repeat ECG to assess right heart strain o/n shows new V3 deep S not
   present 4 months ago or 2 days ago.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-17**] 10:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-19**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 83 (58 - 105) bpm
   BP: 134/43(66) {97/13(40) - 159/78(90)} mmHg
   RR: 20 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                    530 mL
   Urine:
                                                                  3,240 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,240 mL
                                                                   -530 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 98%
   ABG: 7.43/78.[**Numeric Identifier 244**]/67/47/22
   PaO2 / FiO2: 134
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   10.5 g/dL
   219 mg/dL
   1.0 mg/dL
   47 mEq/L
   4.4 mEq/L
   45 mg/dL
   90 mEq/L
   142 mEq/L
   33.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2132-8-16**]  12:46 AM
                             [**2132-8-16**]  09:44 AM
                             [**2132-8-17**]  02:37 AM
                             [**2132-8-17**]  11:55 AM
                             [**2132-8-18**]  11:20 PM
                             [**2132-8-19**]  03:10 AM
   WBC
   7.2
   6.9
   7.6
   Hct
   28.3
   27.8
   33.6
   Plt
   182
   186
   253
   Cr
   0.8
   0.9
   0.9
   1.0
   TCO2
   42
   54
   Glucose
   [**Telephone/Fax (3) 9692**]19
   Other labs: PT / PTT / INR:13.0/22.6/1.1, ALT / AST:22/17, Alk Phos / T
   Bili:52/0.3, Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.2 %,
   Eos:0.3 %, Lactic Acid:0.9 mmol/L, LDH:202 IU/L, Ca++:10.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Microbiology: No BCx from [**8-15**] results yet.
   UCx from [**8-15**] neg.
   ECG: Compared to [**4-7**] and [**2132-8-15**] new deep S  on V3.
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 DELIRIUM / CONFUSION
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -need to review all medications and OMR.  At present, the role of each
   is not clear.  For example, is the progestin meant to be primary
   treatment for her respiratory disease?  How did her psychiatric
   medication regimen get to present state.  Ask pharmacy to help.  If
   still an issue, consider psych consult for psychopharm mgmt assistance.
   -consider sleep consult for chronic management
   -wean steroids (help wtih neuropsych sxs)
   -spoke with daughter who was concerned that pt. was not on home BiPap
   settings and wanted to know that carbon dioxide was coming down;
   someone should touch base with her every day
   # Hypercarbic hypoxic resp failure:
    Patient's symptoms of SOB, agitation as well as hypercarbia suggest
   COPD exacerbation but unclear precipitant given lack of fever,
   infiltrate, leukocytosis, viral syndrome. Initial thought was that CHF
   and volume overload were worse from baseline and were exacerbating
   respiratory symptoms but now euvolemic with developing metabolic
   alkalosis. Given 25% of COPD exacerbaions of unclear etiology can be
   triggered by an underlying PE, will pursue further workup with CTA.CO2
   of 105 on admit ABG, improved to 80s with BiPAP. Daughter reports
   baseline CO2 70s but per review of records had been 40s to 50s last
   admission. Most recent ABG suggests chronic repiratory acidosis with
   developing concomitant metabolic alkalosis.   Will start to wean
   steroids since likely exacerbating agitation
   - Will change solumedrol 80 IV TID to 60mg Prednisone daily in am
   - standing albuterol/ipratropium nebs q6, with prn q2
   - BiPAP at night per home settings
   - home advair
   - f/u final blood cultures
   - continue azithromycin for 5-day course, Day [**4-3**]
   - wean O2 as tolerated to baseline to maintain sats 90%
   .
   # Diastolic congestive heart failure, acute on chronic:
   CXR from this am with persistent cardiomegaly but improved pulmonary
   edema and has had trending up bicarb likely from diuresis and
   contraction alkaslosis. Currently appears euvolemic. Patient had been
   on home dose of lasix 80mg PO daily, but will hold for now given
   adequate diuresis and euvolemia. Yesterday had autodiuresed -4L UOP
   over the last 24hrs. BNP was 2600 on admission, up from previous 800 in
   [**2132-4-30**].
   - Lasix prn SOB, e/o volume overload
   - hold additional lasix for now as autodiuresing
   - follow strict I/Os
   - continue metoprolol (change XL to short acting for titration, shorter
   effect), aspirin
   - repeat EKG this AM
   .
   # Agitation: Likely multifactorial secondary to hypercarbia and
   exacerbated by high-dose steroids vs underlying schizophrenia.
   Responded well to 5 mg Zyprexa previously, well to 2.5mg tonight.
   - hold Ultram, Rozerem, diphenhydramine
   - continue home Abilify, risperdal, Artane
   - Zyprexa prn for sundowning
   - restraints as needed
   # Diabetes mellitus II, well-controlled. Hemoglobin A1c of 6.8 in [**Month (only) 1996**]
   [**2132**]. Currently on home glyburide and HISS given hyperglycemia
   exacerbated by high-dose steroids.
   - continue home glyburide
   - HISS with QID fingersticks
   - wean steroids
   # Hyperlipidemia. No active concerns.
   - continue home simvastatin
   .
   # Anemia. Baseline hematocrit high 20s to low 30s. Most recent was 28
   and stable.
   - continue to trend daily hematocrit
   .
   # Hypothyroid. No active concerns.
   - continue home levothyroxine
   .
   # FEN: No IVF, replete electrolytes, cardiac diabetic diet, S/S consult
   for ? aspiration
   # Access: peripherals
   # Prophylaxis: HSQ, bowel regimen
   # Communication: with daughter and patient via phone interpreter
   # Code status: DNR/DNI (confirmed with daughter, HCP)
   # Disposition: pending improvement in respiratory status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-18**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2132-08-20 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2132-8-20**] 01:24 AM
   -O/N had irregular, narrow complex heart rhythm and one run of V-tach.
   Repeat EKG.
   -Bipap at 18/10 o/n w/o issues.
   - Psych c/s, recs: risperidal for acute agitation, restart home
   depakote and zoloft, check NH3 and depakote level.
   - Called home psych.  Zyprexa in past precipitated hyperglycemia.
   - Prednisone decreased to 20mg PO QD from 60mg PO QD.
   - Sleep c/s: will staff in AM.  ABG @ sleep: 7.38/86/59/53.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2132-8-17**] 10:05 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-20**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.5
   HR: 79 (55 - 114) bpm
   BP: 135/48(71) {105/24(35) - 166/70(90)} mmHg
   RR: 25 (12 - 27) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,120 mL
                                                                    310 mL
   PO:
                                                                  1,120 mL
                                                                     60 mL
   TF:
   IVF:
   250 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    315 mL
   Urine:
                                                                  1,770 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -650 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 89%
   ABG: 7.38/86/59/44/20
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   9.6 g/dL
   137 mg/dL
   0.9 mg/dL
   44 mEq/L
   4.0 mEq/L
   43 mg/dL
   92 mEq/L
   142 mEq/L
   30.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2132-8-16**]  12:46 AM
                             [**2132-8-16**]  09:44 AM
                             [**2132-8-17**]  02:37 AM
                             [**2132-8-17**]  11:55 AM
                             [**2132-8-18**]  11:20 PM
                             [**2132-8-19**]  03:10 AM
                             [**2132-8-19**]  02:10 PM
                             [**2132-8-19**]  10:01 PM
                             [**2132-8-20**]  02:08 AM
   WBC
   7.2
   6.9
   7.6
   10.0
   Hct
   28.3
   27.8
   33.6
   30.5
   Plt
   182
   186
   253
   215
   Cr
   0.8
   0.9
   0.9
   1.0
   0.9
   0.9
   TCO2
   42
   54
   53
   Glucose
   [**Telephone/Fax (3) 9707**]
   Other labs: PT / PTT / INR:12.0/22.4/1.0, ALT / AST:18/13, Alk Phos / T
   Bili:44/0.2, Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.2 %,
   Eos:0.3 %, Lactic Acid:1.7 mmol/L, LDH:202 IU/L, Ca++:10.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR [**8-20**]: final read pending, but looks like resolving
   pulmonary atlectasis
   Microbiology: BC [**8-15**] no growth to date
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 DELIRIUM / CONFUSION
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   73 y/o woman with COPD, OSA, obesity hypoventilation syndrome, CHF
   presents with SOB and somulence x3 days, admitted initially to the MICU
   for hypercarbic respiratory failure, transferred to the floor on 4L O2
   now transferred back to MICU with agitation, persistent hypercarbia.
   # Hypercarbic hypoxic resp failure: Patient's symptoms of SOB,
   agitation as well as hypercarbia suggest COPD exacerbation but unclear
   precipitant given lack of fever, infiltrate, leukocytosis, viral
   syndrome. Initial thought was that CHF and volume overload were worse
   from baseline and were exacerbating respiratory symptoms but now
   euvolemic with developing metabolic alkalosis. Daughter reports
   baseline CO2 70s but per review of records had been 40s to 50s last
   admission.
   - standing albuterol/ipratropium nebs q6, with prn q2 with home advair
   - continue BiPAP 18/10 per sleep recs. Will get ABGs after changes to
   monitor improvement. Sleep is following
   - f/u final blood cultures
   - continue azithromycin, day [**4-1**]
   - Continue steroid wean. Prednisone 10mg po [**8-21**] then stop.
   - Unclear why patient is on MedroxyPROGESTERone. Will discuss with PCP
   and consider stopping as could be worsening her OHV.
   -S/S consulted and recommended NPO, patient/family disagreed and she
   continue to eat despite understood risk of aspiration, so compromise
   was made for soft solids and nectar thickened liquids.
   - if transferred to floor, will have pulm continue to follow to monitor
   care
   # 9 beat asymptomatic Vtach: Patient at baseline has ectopic atrial
   rhythm with PVCs
   - No significant electrolyte abnormalities, will replete lytes as
   needed
   - changes in V6 only, not consistent with myocardial injury
   - Cont tele
   # Diastolic congestive heart failure, acute on chronic: CXR from this
   am with persistent cardiomegaly but improved pulmonary edema and has
   had trending up BUN likely from diuresis and contraction alkaslosis.
   Currently appears euvolemic. Bicarb trending up could be in part from
   contraction alkalosis.
   - Patient had been on home dose of lasix 80mg PO daily, but will hold
   for now given adequate diuresis and euvolemia.
   - continue metoprolol (change XL to short acting for titration, shorter
   effect), aspirin
   # Agitation: Likely multifactorial secondary to hypercarbia and
   exacerbated by high-dose steroids vs underlying schizophrenia.
   - continue home Abilify, risperdal, Artane
   - Risperdal prn for aggitation. Per home psych Zyprexa has caused
   hyperglycemia
   - restraints as needed
   - Depakote and amonia levels low. Patient
s daughter stated that she
   does not take Depakote at home. Will clarify with psych if she needs to
   be on it.
   - psych following
   # Diabetes mellitus II, well-controlled. Hemoglobin A1c of 6.8 in [**Month (only) 1996**]
   [**2132**]. Currently on home glyburide and HISS given hyperglycemia
   exacerbated by high-dose steroids.
   - Have reduced steroids and stopped zyprexa. Increased sliding scale
   and will monitor blood sugar on SSI and glyberide
   - HISS with QID fingersticks
   # Hyperlipidemia. No active concerns.
   - continue home simvastatin
   # Anemia. Baseline hematocrit high 20s to low 30s. Most recent was 28
   and stable.
   - continue to trend daily hematocrit
   # Hypothyroid. No active concerns.
   - continue home levothyroxine
   # FEN: No IVF, replete electrolytes, soft solids and nectar thickened
   liquids
   # Communication: with daughter and patient via phone interpreter
   # Code status: DNR/DNI (confirmed with daughter, HCP)
   ICU [**Name (NI) **]
   Nutrition:
   Comments: nectar thickened and aspiration precautions
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2132-8-18**] 12:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not on PPI given high risk of aspiration pneumonia and no
   clear ICU indication
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:Transfer to floor
   ------ Protected Section ------
   Physical exam not included in original note:
   GEN: Patient sitting upright in bed eating, not overtly agitated
   CV: RRR, no M/R/G
   RESP: Coarse breath sounds throughout
   Abd: obese, soft, NT, ND, +BS
   Ext: no edema, 2+ pedal pulses
   Neuro/psych: minimally agitated, improved from yesterday. Patient more
   alert, less sleep than yesterday.
   ------ Protected Section Addendum Entered By:[**Name (NI) 9630**] [**Name8 (MD) 9631**], MD
   on:[**2132-8-20**] 14:13 ------

2132-08-21 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**8-20**]
   -Sleep team did not feel she would do well on floor. Wanted to keep
   BiPap at 18/10 but keep her sats <90. Felt that increasing hypoxic
   respiratory sat would help blow off CO2 and improve overal lung
   function and mental status.
   -Ketone normal
   -No psych recs. Did not speak to them about Depakote
   - Need to find out type of ICD and ask family if would like it
   interogated/replaced. If so, should consult EP [**8-11**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2132-8-21**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-21**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.1
   HR: 73 (66 - 103) bpm
   BP: 115/45(62) {87/31(44) - 156/84(90)} mmHg
   RR: 22 (14 - 33) insp/min
   SpO2: 85%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    910 mL
                  PO:
                                                                    660 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    220 mL
   Urine:
                                                                  1,595 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -685 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 85%
   ABG: 7.35/87.[**Numeric Identifier 244**]/54/44/17
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R = L anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Absent
   Labs / Radiology
   235 K/uL
   9.9 g/dL
   120 mg/dL
   0.9 mg/dL
   44 mEq/L
   3.8 mEq/L
   34 mg/dL
   92 mEq/L
   141 mEq/L
   30.8 %
   8.3 K/uL
        [image002.jpg]
                             [**2132-8-17**]  02:37 AM
                             [**2132-8-17**]  11:55 AM
                             [**2132-8-18**]  11:20 PM
                             [**2132-8-19**]  03:10 AM
                             [**2132-8-19**]  02:10 PM
                             [**2132-8-19**]  10:01 PM
                             [**2132-8-20**]  02:08 AM
                             [**2132-8-20**]  07:38 AM
                             [**2132-8-21**]  03:56 AM
                             [**2132-8-21**]  05:23 AM
   WBC
   6.9
   7.6
   10.0
   8.3
   Hct
   27.8
   33.6
   30.5
   30.8
   Plt
   186
   253
   215
   235
   Cr
   0.9
   0.9
   1.0
   0.9
   0.9
   0.9
   TCO2
   54
   53
   56
   51
   Glucose
   291
   435
   219
   [**Telephone/Fax (3) 9722**]
   Other labs: PT / PTT / INR:12.0/22.4/1.0, ALT / AST:18/13, Alk Phos / T
   Bili:44/0.2, Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.2 %,
   Eos:0.3 %, Lactic Acid:1.7 mmol/L, LDH:202 IU/L, Ca++:10.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Microbiology: [**8-15**] Bcx pending
   [**8-15**] Ucx negative
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 DELIRIUM / CONFUSION
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   73 y/o woman with COPD, OSA, obesity hypoventilation syndrome, CHF
   presents with SOB and somulence x3 days, admitted initially to the MICU
   for hypercarbic respiratory failure, transferred to the floor on 4L O2
   now transferred back to MICU with agitation, persistent hypercarbia.
   # Hypercarbic hypoxic resp failure: Patient's symptoms of SOB,
   agitation as well as hypercarbia suggest COPD exacerbation but unclear
   precipitant given lack of fever, infiltrate, leukocytosis, viral
   syndrome. Initial thought was that CHF and volume overload were worse
   from baseline and were exacerbating respiratory symptoms but now
   euvolemic with developing metabolic alkalosis. Daughter reports
   baseline CO2 70s but per review of records had been 40s to 50s last
   admission.
   - standing albuterol/ipratropium nebs q6, with prn q2 with home advair
   - continue BiPAP 18/10 per sleep recs. ABG unchanged following sleep
   recs of 88-90%SaO2 o/n.
   - f/u final blood cultures
   - Continue steroid wean. stop prednisone.
   - Unclear why patient is on MedroxyPROGESTERone. Will discuss with PCP
   and consider stopping as could be worsening her OHV.
   -S/S consulted and recommended NPO, patient/family disagreed and she
   continue to eat despite understood risk of aspiration, so compromise
   was made for soft solids and nectar thickened liquids.
   - if transferred to floor, will have pulm continue to follow to monitor
   care
   -talk with sleep and talk with daughter concerning level of care
   necessary and most appropriate next step in care.
   -watch over night to let pt equilibrate in terms of respiratory
   status.  Consider acetazolamide tomorrow if respiratory status does not
   change.  Would need art line for acetazolamide.
   -ABG in PM
   # 9 beat asymptomatic Vtach: Patient at baseline has ectopic atrial
   rhythm with PVCs, no new Vtach o/n.
   - No significant electrolyte abnormalities, will replete lytes as
   needed
   - Cont tele
   # Diastolic congestive heart failure, acute on chronic: CXR from this
   am with persistent cardiomegaly but improved pulmonary edema and has
   had trending up BUN likely from diuresis and contraction alkaslosis.
   Currently appears euvolemic. Bicarb trending up could be in part from
   contraction alkalosis.
   - Patient had been on home dose of lasix 80mg PO daily, but will hold
   for now given adequate diuresis and euvolemia.
   - continue metoprolol (change XL to short acting for titration, shorter
   effect), aspirin
   # Agitation: Likely multifactorial secondary to hypercarbia and
   exacerbated by high-dose steroids vs underlying schizophrenia.
   - continue home Abilify, risperdal, Artane
   - Risperdal prn for aggitation. Per home psych Zyprexa has caused
   hyperglycemia
   - restraints as needed
   - Depakote stopped
   - psych following
   # Diabetes mellitus II, well-controlled. Hemoglobin A1c of 6.8 in [**Month (only) 1996**]
   [**2132**]. Currently on home glyburide and HISS given hyperglycemia
   exacerbated by high-dose steroids.
   - Have reduced steroids and stopped zyprexa. Increased sliding scale
   and will monitor blood sugar on SSI and glyberide
   - HISS with QID fingersticks
   # Hyperlipidemia. No active concerns.
   - continue home simvastatin
   # Anemia. Baseline hematocrit high 20s to low 30s. Most recent was 28
   and stable.
   - continue to trend daily hematocrit
   # Hypothyroid. No active concerns.
   - continue home levothyroxine
   # FEN: No IVF, replete electrolytes, soft solids and nectar thickened
   liquids
   # Communication: with daughter and patient via phone interpreter
   # Code status: DNR/DNI (confirmed with daughter, HCP)
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2132-8-18**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2132-08-22 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Promised to wear bipap all night o/n, ABG improved this AM at
   7.39/79/66.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-8-22**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 76 (57 - 99) bpm
   BP: 75/20(33) {75/20(33) - 151/45(74)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                    960 mL
                                                                    100 mL
   PO:
                                                                    960 mL
                                                                    100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    280 mL
   Urine:
                                                                  1,760 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -800 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 89%
   ABG: 7.39/77.[**Numeric Identifier 96**]/66/45/17
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   213 K/uL
   9.7 g/dL
   65 mg/dL
   0.8 mg/dL
   45 mEq/L
   4.5 mEq/L
   31 mg/dL
   93 mEq/L
   142 mEq/L
   31.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2132-8-18**]  11:20 PM
                             [**2132-8-19**]  03:10 AM
                             [**2132-8-19**]  02:10 PM
                             [**2132-8-19**]  10:01 PM
                             [**2132-8-20**]  02:08 AM
                             [**2132-8-20**]  07:38 AM
                             [**2132-8-21**]  03:56 AM
                             [**2132-8-21**]  05:23 AM
                             [**2132-8-22**]  02:51 AM
                             [**2132-8-22**]  06:18 AM
   WBC
   7.6
   10.0
   8.3
   8.3
   Hct
   33.6
   30.5
   30.8
   31.5
   Plt
   [**Telephone/Fax (3) 9750**]13
   Cr
   1.0
   0.9
   0.9
   0.9
   0.8
   TCO2
   54
   53
   56
   51
   49
   Glucose
   [**Telephone/Fax (3) 9751**]20
   65
   Other labs: PT / PTT / INR:12.0/22.4/1.0, ALT / AST:18/13, Alk Phos / T
   Bili:44/0.2, Differential-Neuts:86.0 %, Lymph:10.3 %, Mono:3.2 %,
   Eos:0.3 %, Lactic Acid:1.7 mmol/L, LDH:202 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 DELIRIUM / CONFUSION
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   73 y/o woman with COPD, OSA, obesity hypoventilation syndrome, CHF
   presents with SOB and somulence x3 days, admitted initially to the MICU
   for hypercarbic respiratory failure, transferred to the floor on 4L O2
   now transferred back to MICU with agitation, persistent hypercarbia.
   # Hypercarbic hypoxic resp failure: Patient's symptoms of SOB,
   agitation as well as hypercarbia suggest COPD exacerbation but unclear
   precipitant given lack of fever, infiltrate, leukocytosis, viral
   syndrome. Initial thought was that CHF and volume overload were worse
   from baseline and were exacerbating respiratory symptoms but now
   euvolemic with developing metabolic alkalosis. Daughter reports
   baseline CO2 70s but per review of records had been 40s to 50s last
   admission.
   - standing albuterol/ipratropium nebs q6, with prn q2 with home advair
   - continue BiPAP 18/10 per sleep recs. ABG improved wearing BIPAP all
   night.
   - final Bcx negative.
   - Prednisone stopped
   -S/S consulted and recommended NPO, patient/family disagreed and she
   continue to eat despite understood risk of aspiration, so compromise
   was made for soft solids and nectar thickened liquids.
   - if transferred to floor, will have pulm continue to follow to monitor
   care
   -talk with sleep and talk with daughter concerning level of care
   necessary and most appropriate next step in care.
   -watch over night to let pt equilibrate in terms of respiratory
   status.  Consider acetazolamide tomorrow if respiratory status does not
   change.  Would need art line for acetazolamide.
   -ABG in PM
   # 9 beat asymptomatic Vtach: Patient at baseline has ectopic atrial
   rhythm with PVCs, no new Vtach o/n.
   - No significant electrolyte abnormalities, will replete lytes as
   needed
   - Cont tele
   # Diastolic congestive heart failure, acute on chronic: CXR from this
   am with persistent cardiomegaly but improved pulmonary edema and has
   had trending up BUN likely from diuresis and contraction alkaslosis.
   Currently appears euvolemic. Bicarb trending up could be in part from
   contraction alkalosis.
   - Patient had been on home dose of lasix 80mg PO daily, but will hold
   for now given adequate diuresis and euvolemia.
   - continue metoprolol (change XL to short acting for titration, shorter
   effect), aspirin
   # Agitation: Likely multifactorial secondary to hypercarbia and
   exacerbated by high-dose steroids vs underlying schizophrenia.
   - continue home Abilify, risperdal, Artane
   - Risperdal prn for aggitation. Per home psych Zyprexa has caused
   hyperglycemia
   - restraints as needed
   - psych following
   # Diabetes mellitus II, well-controlled. Hemoglobin A1c of 6.8 in [**Month (only) 1996**]
   [**2132**]. Currently on home glyburide and HISS given hyperglycemia
   exacerbated by high-dose steroids.
   - Have reduced steroids and stopped zyprexa. Increased sliding scale
   and will monitor blood sugar on SSI and glyberide
   - HISS with QID fingersticks
   # Hyperlipidemia. No active concerns.
   - continue home simvastatin
   # Anemia. Baseline hematocrit high 20s to low 30s. Most recent was 28
   and stable.
   - continue to trend daily hematocrit
   # Hypothyroid. No active concerns.
   - continue home levothyroxine
   # FEN: No IVF, replete electrolytes, soft solids and nectar thickened
   liquids
   # Communication: with daughter and patient via phone interpreter
   # Code status: DNR/DNI (confirmed with daughter, HCP)
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-8-22**] 03:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: